Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Codeine / Iodine / Morphine / Percocet / Percodan
 
Attending: ___.
 
Chief Complaint:
Left Facial Pain, Skin Infection and Fever
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Mr. ___ is a ___ year-old man with a history of squamous cell 
carcinoma s/p Mohs to the L temporal area on ___. Since the 
surgery, he has been having headaches, gradually worsening. He 
has not been able to eat much since ___ due to the pain. It now 
extends from his forehead down to his mandible on the L. He 
initially took acetaminophen, which did not change his pain. He 
then took 400 mg ibuprofen which seemed to help. On ___ he 
developed fevers and chills. He came to the hospital.
 
Past Medical History:
-dyslipidemia  
-BPH  
-numerous non-melanoma skin cancers  
-actinic keratoses  
-s/p splenectomy following MVA in ___ (? vaccinations)
 
Social History:
___
Family History:
Father was a ___ and family had prolonged sun exposure. 
There is a strong family history of actinic keratoses,  and skin 
cancer. 
 
Physical Exam:
VS: T 97, BP 118/70, RR 16, O2 98% on RA  
Gen: appears comfortable, talkative and pleasant  
HEENT: L temporal surgical wound healing, slight purulence when 
pressed most pronounced at hairline, erythema is most pronounced 
around the wound but extends down to his mandible. He is very 
tender around the suture and mildly tender down the L lateral 
aspect of his face.  
Neck: supple  
Cardiovascular: regular, no murmur  
Respiratory: Clear to auscultation bilaterally, no wheezes, 
rales or rhonchi  
Abd: Soft, non-tender, non distended, no heptosplenomegally, 
bowel sounds present, abdominal scar from splenectomy  
Extremities: warm, no edema  
Neurological: grossly intact  
Skin: L temporal area described above. Otherwise, he has diffuse 
actinic keratoses, most pronounced on his back and scalp.
 
Pertinent Results:
___ 06:30PM   WBC-24.4*# RBC-4.59* HGB-14.2 HCT-41.9 MCV-91 
MCH-31.0 MCHC-33.9 RDW-13.5

___ 07:27AM BLOOD WBC-17.5* RBC-4.22* Hgb-13.3* Hct-39.1* 
MCV-93 MCH-31.4 MCHC-33.9 RDW-13.4 Plt ___ year-old man with a history of squamous cell carcinoma s/p 
Mohs to the L temporal area on ___. Since the surgery, he has 
been having headaches, gradually worsening. He has not been able 
to eat much since ___ due to the pain. It now extends from his 
forehead down to his mandible on the L.
.
In the ED, initial VS T 99.9, BP 144/87, HR 93, RR 16, O2 96% 
RA. Exam was notable for infected-appearing wound on L temporal 
area. Labs notable for leukocytosis. Dermatology saw him and 
recommended IV MRSA coverage and observation overnight. He was 
given 1g vancomycin and admitted.  
.
His elevated temperature resolved with administration of 2 doses 
of IV vancomycin. WBC count on ED presentation was 24.4 and on 
day of discharge was 17.5. Pain was also subjectively much 
improved. Gram stain of wound revealed gram positive cocci in 
pairs. Wound and blood culture and sensitity remain pending. 
Dermatology was consulted and recommended follow-up appointment 
in their surgery clinic on ___ at 2PM and 
outpatient oral antibiotic therapy. Patient was prescribed 
Bactrim DS PO x 14 days. 
.
His other medical problems were stable and no changes were made 
to the medications other than adding Bactrim DS for his current 
skin infection.

 
Medications on Admission:
simvastatin 5 mg daily  
finasteride 5 mg dialy  
 
Discharge Medications:
1. Ibuprofen 400 mg Tablet Sig: Two (2) Tablet PO Q8H (every 8 
hours) as needed for pain.
Disp:*20 Tablet(s)* Refills:*0*
2. Finasteride 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
3. Simvastatin 10 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
4. Bactrim DS 800-160 mg Tablet Sig: Two (2) Tablet PO twice a 
day for 14 days.
Disp:*56 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
L Facial cellulitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ for 
fever and a skin infection. You were started on IV vancomycin in 
the ED and continued on admission. Your fever resolved and your 
pain improved. In addition, your white blood cell count is 
appropriately responding to the antibiotic therapy. Your 
infection treatment with antibiotics will be continued as oral 
Bactrim DS 2 pills twice daily for 14 days. You should continue 
your home medications as written in this discharge document.
.
The Following CHANGES have been made:
You were STARTED on BACTRIM DS 2 pills twice per day for 14 days 
for the infection.
.
Please follow up with your dermatologist on ___ on ___ 
at 2pm ___ ___ Center Dermatologic Surgery clinic .

 
Followup Instructions:
___